US06642229B2
3-Bromo-7-trifluoromethylimidazo[1,2-a]pyrimidine (0.28 g, 1.04 mmol) was coupled with 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 3′-(7-trifluoromethylimidazo[1,2-a]pyrimidin-3-yl)biphenyl-2-carbonitrile (165 mg, 44%) as a yellow powder: δH (400 MHz, CDCl3) 7.29 (1H, d, J 7), 7.53 (1H, td, J 8 and 1), 7.59-7.68 (3H, m), 7.70-7.75 (2H, m), 7.80-7.85 (2H, m), 8.14 (1H, s), 9.20 (1H, d, J 7); m/z (ES+) 365 (M++H).

reactant | 3-Bromo-7-trifluoromethylimidazo[1,2-a]pyrimidine | 1.04 mmol, 0.28 g | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C=1C(=CC=CC1)C#N)C | C19H20BNO2
product | 3′-(7-trifluoromethylimidazo[1,2-a]pyrimidin-3-yl)biphenyl-2-carbonitrile | 165 mg, 44% | FC(C1=NC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C=2C(=CC=CC2)C#N)(F)F | C20H11F3N4
